US04066664
To 11.8 g (50 mmol) of phenylmalonic acid diethyl ester in 23 ml. of acetic anhydride there are added 0.5 ml. of concentrated H2SO4 and 20 ml. of acetone. The mixture is stirred at 25° C for 8 hours, water (250 ml.) is then added thereto and the mixture is stirred for 30 minutes. The obtained precipitate is washed with 250 ml. of water up to pH 6.5, dried under reduced pressure and dissolved in 100 ml. of chloroform. The organic solution is dried over anhydrous sodium sulfate, most of the solvent is evaporated under reduced pressure and 100 ml. of petroleum ether (50°-70° C) is added thereto. The suspension is stirred for 30 minutes and filtered. The precipitate is washed with 20 ml. of petroleum ether (50°-70° C) and dried over P2O5 under reduced pressure to yield 2.2-dimethyl-5-phenyl-1.3-dioxane-4.6-dione with the same characteristics as the compound described by P. J. Scheuer in J.A.C.S. 80, 4933-38 (1958).

reactant | phenylmalonic acid diethyl ester | 50 mmol, 11.8 g | C(C)OC(C(C(=O)OCC)C1=CC=CC=C1)=O | C13H16O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 250 ml | O | H2O
product | 2.2-dimethyl-5-phenyl-1.3-dioxane-4.6-dione | CC1(OC(C(C(O1)=O)C1=CC=CC=C1)=O)C | C12H12O4
